US07105533B2
A solution of 2-bromo-5-nitroanisole (5.8 g, 25 mmol) in THF (50 mL) was treated with 2-pyridyl-zinc bromide (50 mL of a 0.5M solution in THF, 25 mmol) and Pd(PPh3)4 (1.44 g, 1.25 mmol). The reaction mixture was degassed by bubbling argon through the solution for min and was subsequently heated to reflux for 12 h while under an atmosphere of argon. The cooled reaction mixture was concentrated and purified by flash column chromatography on silica gel eluting with EtOAc:hexanes (1:19 to 2:3) to afford the desired 2-(2-methoxy-4-nitrophenyl)pyridine.

reactant | 2-bromo-5-nitroanisole | 25 mmol, 5.8 g | BrC1=C(C=C(C=C1)[N+](=O)[O-])OC | C7H6BrNO3
reactant | 2-pyridyl-zinc bromide | [Br-].N1=C(C=CC=C1)[Zn+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 1.25 mmol, 1.44 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-methoxy-4-nitrophenyl)pyridine | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=NC=CC=C1 | C12H10N2O3
